US07435731B2
4-Chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine (10.0 g, 0.032 mol) was added to 100 mL of dry DMF, and the resulting solution was cooled to 0° C. (2-Chloromethoxy-ethyl)-trimethyl-silane (6.8 mL, 0.038 mol) was added dropwise, and the reaction mixture was stirred for five minutes. Sodium hydride (1.40 g, 0.0333 mol) was then added, and the reaction mixture was stirred for 30 minutes at 0° C. The reaction mixture was partitioned between water and ethyl acetate. The layers were separated, and the aqueous layer was washed twice with ethyl acetate. The combined organic layers were washed with brine, washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (0% to 10% hexanes in EtOAc) to afford 8.55 g of 4-Chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine.

reactant | 4-Chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 0.032 mol, 10.0 g | ClC1=C2C(=NC(=N1)SC)NN=C2C2=C(C=CC=C2)Cl | C12H8Cl2N4S
reactant | (2-Chloromethoxy-ethyl)-trimethyl-silane | 0.038 mol, 6.8 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | Sodium hydride | 0.0333 mol, 1.40 g | [H-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-3-(2-chloro-phenyl)-6-methylsulfanyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidine | 8.55 g | ClC1=C2C(=NC(=N1)SC)N(N=C2C2=C(C=CC=C2)Cl)COCC[Si](C)(C)C | C18H22Cl2N4OSSi
